US05504244
A mixture of 3-(2-hydroxy-4-methoxybenzoyl)benzoic acid (1 g) and anhydrous potassium carbonate (1.12 g) is heated under reflux in acetone (30 ml) for 30 minutes. Then, 1-bromobutane (1.1 g) is added and the resulting mixture heated under reflux for 48 hours. The reaction mixture is then cooled to room temperature, diluted with water (100 ml) and extracted with ether (3×30 ml). The ether extracts are dried over magnesium sulfate, filtered and evaporated to dryness. The residue is heated under reflux with 2N sodium hydroxide (2 ml) for 4 hours. The mixture is then acidified with concentrated hydrochloric acid, diluted with water (50 ml) and extracted with ether (3×25 ml). Ether extracts are dried over magnesium sulfate, filtered, and evaporated to dryness. The residue is recrystallized from aqueous ethanol to yield 3-(2-butoxy-4methoxybenzoyl)benzoic acid (0.5 g), m.p. 112°-115° C.

reactant | 3-(2-hydroxy-4-methoxybenzoyl)benzoic acid | 1 g | OC1=C(C(=O)C=2C=C(C(=O)O)C=CC2)C=CC(=C1)OC | C15H12O5
reactant | potassium carbonate | 1.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromobutane | 1.1 g | BrCCCC | C4H9Br
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 3-(2-butoxy-4methoxybenzoyl)benzoic acid | 0.5 g | C(CCC)OC1=C(C(=O)C=2C=C(C(=O)O)C=CC2)C=CC(=C1)OC | C19H20O5
